US07576094B2
A solution of 1-((4-methoxy-2,3-dimethylphenylamino)methyl)cyclobutanecarboxylic acid (19 g in toluene (100 mL) was added into phosphoric acid (25 mL). The mixture was heated up in a 116° C. bath and stirred for an hour. The mixture was then cooled down, quenched with ice, and extracted with ethylacetate. The organic phase was then dried and evaporated to dryness. The crude product was passed through a column (Hexane: EtOAc; 10:4) to give 6′-methoxy-7′,8′-dimethyl-1′H-spiro[cyclobutane-1,3′-quinolin]-4′(2′H)-one (15 g) as a yellow solid. 1H-NMR (300 MHz, CDCl3): δ=7.26 (s, 1H), 4.11 (s, 1H), 3.79 (s, 3H), 3.54 (s, 2H), 2.59-2.29 (m, 2H), 2.38 (3H), 2.34 (3H), 2.06-1.82 (4H) ppm. 13C-NMR (75 MHz, CDCl3) δ=196.22, 150.49, 144.93, 133.95, 122.36, 115.05, 104.75, 55.77, 51.45, 46.5, 25.95, 15.06, 12.98, 12.77 ppm.

reactant | 1-((4-methoxy-2,3-dimethylphenylamino)methyl)cyclobutanecarboxylic acid | COC1=C(C(=C(C=C1)NCC1(CCC1)C(=O)O)C)C | C15H21NO3
reactant | phosphoric acid | 25 mL | P(O)(O)(O)=O | H3O4P
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 6′-methoxy-7′,8′-dimethyl-1′H-spiro[cyclobutane-1,3′-quinolin]-4′(2′H)-one | 15 g | COC=1C=C2C(C3(CNC2=C(C1C)C)CCC3)=O | C15H19NO2
